US07863271B2
To a stirred solution of diphenylmethanimine (2.36 mL, 13.7 mmol), HOAc (0.86 mL, 15.1 mmol), and potassium hydroxide (0.19 g, 3.4 mmol) in CH3OH (25 mL) cooled to 0° C. was added a solution of 1,1′-thiodipropan-2-one (2.0 g, 13.7 mmol) in CH3OH (10 mL). NaCNBH3 (0.86 g, 13.7 mmol) was then added and the reaction mixture stirred at ambient temperature for 16 h. A further portion of NaCNBH3 (0.43 g, 6.9 mmol) was added and the reaction mixture stirred for another 4 h. The reaction mixture was partitioned with EtOAc (150 mL) and H2O (150 mL) and the layers separated. The organic layer was washed with H2O (150 mL), brine (150 mL) then dried over Na2SO4. After concentration under reduced pressure, the resulting residue was purified by flash column chromatography (silica gel, 10-50% EtOAc in hexanes) to afford (3S,5S)/(3R,5R)-4-benzhydryl-3,5-dimethylthiomorpholine (0.52 g, 13%). 1H NMR consistent.

reactant | diphenylmethanimine | 13.7 mmol, 2.36 mL | C1(=CC=CC=C1)C(=N)C1=CC=CC=C1 | C13H11N
reactant | HOAc | 15.1 mmol, 0.86 mL | CC(=O)O | C2H4O2
reactant | potassium hydroxide | 3.4 mmol, 0.19 g | [OH-].[K+]
reactant | 1,1′-thiodipropan-2-one | 13.7 mmol, 2.0 g | S(CC(C)=O)CC(C)=O | C6H10O2S
reactant | NaCNBH3 | 13.7 mmol, 0.86 g | [BH3-]C#N.[Na+]
reactant | NaCNBH3 | 6.9 mmol, 0.43 g | [BH3-]C#N.[Na+]
solvent | CH3OH | 25 mL | CO | CH4O
solvent | CH3OH | 10 mL | CO | CH4O
product | (3R,5R)-4-benzhydryl-3,5-dimethylthiomorpholine | 0.52 g, 13% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1[C@@H](CSC[C@H]1C)C | C19H23NS
